US08580785B2
Preparation of 7-chloro-6-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-benzo[1,2,5]thiadiazole-5-carboxylic acid cyclopropylmethyl-amide (T20.1.14)
See step f) of example H2 using 4-chloro-6-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-7-oxa-2-thia-1,3,5-triaza-cyclopenta[b]naphthalen-8-one as starting material and cyclopropanemethylamine. After 18 hours reaction and chromatography column purification, a slightly brown solid is obtained (85%). LC/MS: 556/558 (M+1)+.

reactant | 4-chloro-6-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-7-oxa-2-thia-1,3,5-triaza-cyclopenta[b]naphthalen-8-one | ClC=1C=2C(C=C3C(OC(=NC13)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl)=O)=NSN2 | C17H5Cl2F3N6O2S
reactant | cyclopropanemethylamine | C1(CC1)CN | C4H9N
product | 7-chloro-6-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-benzo[1,2,5]thiadiazole-5-carboxylic acid cyclopropylmethyl-amide | C1(CC1)CNC(=O)C=1C(=C(C=2C(=NSN2)C1)Cl)NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl | C21H14Cl2F3N7O2S
